US04506079
In a flask equipped with a reflux condenser is placed 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane (100 parts) and morpholine. The solution is refluxed for 20 hours. After cooling, the reaction mixture is concentrated in vacuo to leave resin. Chromatographic purification of the resin affords 4-(3-isopropylamino-2-hydroxypropoxy)-1-p-toluenesulfonylindole (24 parts) in 29% yield. This showed the same physical characteristics with an authentic sample.

reactant | 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | C(C)(C)NCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C21H27BrN2O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(3-isopropylamino-2-hydroxypropoxy)-1-p-toluenesulfonylindole | 29% yield | C(C)(C)NCC(COC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)O | C21H26N2O4S
